US07208493B2
To a solution of (7-Bromo-5-methyl-benzo[1,2,4]triazin-3-yl)-phenyl-amine (60 mg, 0.19 mmol) dissolved in 3 ml N,N-Dimethylacetamide in a 20 ml vial, 2,6-dimethyl-phenylboronic acid (114 mg, 0.76 mmol) dissolved in 2 ml ethanol and potassium carbonate (31 mg, 0.3 mmol) dissolved in 1 ml water were added. Triphenylphosphine (4.5 mg, 0.0171 mmol) and tris(dibenzylideneacetone) dipalladium (0) (4.5 mg, 4.9 umol) were added to the mixture. The mixture was reflux overnight. The crude product was filtered and purified by preparative HPLC. 30 mg [7-(2,6-Dimethyl-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-phenyl-amine was isolated. Yield: 46%; ESI-MS: [M+H]+, 341; 1H NMR (DMSO-d6): δ 2.05 (s, 6 H), 2.67(s, 3H), 7.07(t, J=7.33 Hz, 1 H), 7.17–7.24 (m, 3 H), 7.41 (t, J=7.56 Hz, 2 H), 7.62 (d, J=1.49 Hz, 1 H), 7.93 (d, J=1.49 Hz, 1 H), 8.05 (d, J=7.72 Hz, 1H).

reactant | (7-Bromo-5-methyl-benzo[1,2,4]triazin-3-yl)-phenyl-amine | 0.19 mmol, 60 mg | BrC1=CC2=C(N=C(N=N2)NC2=CC=CC=C2)C(=C1)C | C14H11BrN4
reactant | 2,6-dimethyl-phenylboronic acid | 0.76 mmol, 114 mg | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | potassium carbonate | 0.3 mmol, 31 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Triphenylphosphine | 0.0171 mmol, 4.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-Dimethylacetamide | 3 ml | CN(C(C)=O)C | C4H9NO
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 4.9 umol, 4.5 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | [7-(2,6-Dimethyl-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-phenyl-amine | 30 mg, Yield: 46% | CC1=C(C(=CC=C1)C)C1=CC2=C(N=C(N=N2)NC2=CC=CC=C2)C(=C1)C | C22H20N4
